US09278985B2
Preparation 47 (Precursor Example 1): 4-Chloro-7-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-indole
To a solution of 7-bromo-4-chloro-1H-indole (8 g, 0.03 mol) in dioxane; KOAc (9.8 g, 0.1 mol), dichloro[1,1′-bis(diphenylphosphino)ferrocene]-palladium(II) (2.19 g, 0.003 mol), 4,4,4′,4′,5,5,5′,5′-octamethyl-2,2′-bi(1,3,2-dioxaborolane) (13.2 g, 0.052 mol) were charged as solids. The reaction was placed under inert atmosphere and the flask was sealed. The reaction was heated to 100° C. for 16 h. The reaction was then treated with H2O and extracted with ethyl acetate. The organic layer was partitioned and concentrated. The resulting residue was purified using a Teledyne ISCO chromatography system with a gradient eluent system of ethyl acetate in Hexane to yield the title compound (1.3 g, 15.6%): 1H NMR (300 MHz, CDCl3) δ 1.40 (s, 24H), 6.58-6.73 (m, 1H), 7.14 (d, J=7.6 Hz, 1H), 7.28-7.36 (m, 1H), 7.56 (d, J=7.6 Hz, 1H), 9.34 (s, 1H).

reactant | 7-bromo-4-chloro-1H-indole | 0.03 mol, 8 g | BrC=1C=CC(=C2C=CNC12)Cl | C8H5BrClN
reactant | KOAc | 0.1 mol, 9.8 g | CC(=O)[O-].[K+]
reactant | 4,4,4′,4′,5,5,5′,5′-octamethyl-2,2′-bi(1,3,2-dioxaborolane) | 0.052 mol, 13.2 g | CC1(OB(OC1(C)C)B1OC(C(O1)(C)C)(C)C)C | C12H24B2O4
reactant | H2O | O | H2O
solvent | dioxane | O1CCOCC1 | C4H8O2
catalyst | dichloro[1,1′-bis(diphenylphosphino)ferrocene]-palladium(II) | 0.003 mol, 2.19 g | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | 4-Chloro-7-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-indole | 1.3 g, 15.6% | ClC1=C2C=CNC2=C(C=C1)B1OC(C(O1)(C)C)(C)C | C14H17BClNO2
